US05344843
A mixture of alpha-oxo-4-[[2-(phenylthio)ethyl]oxy]benzeneacetic acid methyl ester (0.5 g) in methanol and 0.5N sodium hydroxide (6 mL) was treated as in Example 19. Extraction provided material which was crystallized from benzene-hexane to give 0.43 g of colorless alpha-oxo-4-[[2-(phenylthio)ethyl]oxy]benzeneacetic acid, mp 72°-73° C.

reactant | alpha-oxo-4-[[2-(phenylthio)ethyl]oxy]benzeneacetic acid methyl ester | 0.5 g | COC(C(C1=CC=C(C=C1)OCCSC1=CC=CC=C1)=O)=O | C17H16O4S
solvent | methanol | CO | CH4O
solvent | sodium hydroxide | 0.5N, 6 mL | [OH-].[Na+]
product | alpha-oxo-4-[[2-(phenylthio)ethyl]oxy]benzeneacetic acid | 0.43 g | O=C(C(=O)O)C1=CC=C(C=C1)OCCSC1=CC=CC=C1 | C16H14O4S
